US07166648B2
4,4-Diacetyl-5-oxohexanoic acid methyl ester
92.5 g of 4-acetyl-5-oxohexanoic acid methyl ester was reacted with 11.5 g of metallic sodium in 200 ml of diethyl ether. After the dissolving of sodium was finished, 39.25 g of acetyl chloride was dropped in, and the resulting boiling mixture was stirred for 6 hours. Then, the reaction mixture was filtered, washed with aqueous potassium hydroxide and water, following by evaporation of solvent. The final vacuum distillation yielded the subject compound as a yellowish liquid having a purity of above 90%.

reactant | 4-acetyl-5-oxohexanoic acid methyl ester | 92.5 g | COC(CCC(C(C)=O)C(C)=O)=O | C9H14O4
reactant | sodium | 11.5 g | [Na] | Na
reactant | acetyl chloride | 39.25 g | C(C)(=O)Cl | C2H3ClO
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 4,4-Diacetyl-5-oxohexanoic acid methyl ester | COC(CCC(C(C)=O)(C(C)=O)C(C)=O)=O | C11H16O5
